US06559173B1
3-[(5-Furan-2-yl-1H-pyrazol-3-ylamino)-methylene]-5-chloro-1,3-dihydro-indol-2-one
The named compound is prepared by substituting E & Z-3-[(hydroxy)-methylene]-5-chloro-1,3-dihydro-indol-2-one for E & Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one and substituting 3-amino-5-(2-furyl)-pyrazole for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-5-chloro-1,3-dihydro-indol-2-one is reacted with 0.280 gms. 3-amino-5-(2-furyl)-pyrazole by refluxing in tetrahydrofuran.

reactant | Z-3-[(hydroxy)-methylene]-5-chloro-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=C(C=C12)Cl)=O | C9H6ClNO2
reactant | Z-3-[(hydroxy)-methylene]-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | 3-amino-5-(2-furyl)-pyrazole | NC1=NNC(=C1)C=1OC=CC1 | C7H7N3O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-[(5-Furan-2-yl-1H-pyrazol-3-ylamino)-methylene]-5-chloro-1,3-dihydro-indol-2-one | O1C(=CC=C1)C1=CC(=NN1)NC=C1C(NC2=CC=C(C=C12)Cl)=O | C16H11ClN4O2
